US04000296
A solution of N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine (2.0 g.) in hydrochloric acid (25 ml.) was heated on the steam bath for 2 hours. Concentration followed by recrystallisation of the product from ethanol-ether afforded N-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine dihydrochloride (1.44 g.) m.p. 204°-206°.

reactant | N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine | 2.0 g | C(#N)NC(=NCCSCC1=C(N=CN1)C)NC | C10H16N6S
reactant | hydrochloric acid | 25 ml | Cl | ClH
product | N-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine dihydrochloride | 1.44 g | Cl.Cl.CNC(=NCCSCC1=C(N=CN1)C)N | InChI=1S/C9H17N5S.2ClH/c1-7-8(14-6-13-7)5-15-4-3-12-9(10)11-2;;/h6H,3-5H2,1-2H3,(H,13,14)(H3,10,11,12);2*1H
